### PR TITLE
[Merged by Bors] - feat: Two lemmas on divisibility and coprimality of `expand`

### PR DESCRIPTION
**Pull request by seewoo5**
---

Separated from #18882 

- [x] depends on: #20268 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by seewoo5** [comment]
Anyone knows why there's a build error?
```
✖ [5536/5789] Building Mathlib.RingTheory.Localization.Integral
trace: .> LEAN_PATH=././.lake/packages/Cli/.lake/build/lib:././.lake/packages/batteries/.lake/build/lib:././.lake/packages/Qq/.lake/build/lib:././.lake/packages/aesop/.lake/build/lib:././.lake/packages/proofwidgets/.lake/build/lib:././.lake/packages/importGraph/.lake/build/lib:././.lake/packages/LeanSearchClient/.lake/build/lib:././.lake/packages/plausible/.lake/build/lib:././.lake/build/lib LD_LIBRARY_PATH=././.lake/build/lib:././.lake/packages/plausible/.lake/build/lib:././.lake/packages/LeanSearchClient/.lake/build/lib:././.lake/packages/importGraph/.lake/build/lib:././.lake/packages/proofwidgets/.lake/build/lib:././.lake/packages/aesop/.lake/build/lib:././.lake/packages/Qq/.lake/build/lib:././.lake/packages/batteries/.lake/build/lib:././.lake/packages/Cli/.lake/build/lib:/home/lean/.elan/toolchains/leanprover--lean4---v4.15.0-rc1/lib/lean:/home/lean/.elan/toolchains/leanprover--lean4---v4.15.0-rc1/lib /home/lean/.elan/toolchains/leanprover--lean4---v4.15.0-rc1/bin/lean -Dpp.unicode.fun=true -DautoImplicit=false -Dweak.linter.docPrime=true -Dweak.linter.hashCommand=true -Dweak.linter.oldObtain=true -Dweak.linter.refine=true -Dweak.linter.style.cdot=true -Dweak.linter.style.dollarSyntax=true -Dweak.linter.style.header=true -Dweak.linter.style.lambdaSyntax=true -Dweak.linter.style.longLine=true -Dweak.linter.style.longFile=1500 -Dweak.linter.style.missingEnd=true -Dweak.linter.style.multiGoal=true -Dweak.linter.style.setOption=true ././././Mathlib/RingTheory/Localization/Integral.lean -R ./././. -o ././.lake/build/lib/Mathlib/RingTheory/Localization/Integral.olean -i ././.lake/build/lib/Mathlib/RingTheory/Localization/Integral.ilean -c ././.lake/build/ir/Mathlib/RingTheory/Localization/Integral.c --json
error: ././././Mathlib/RingTheory/Localization/Integral.lean:321:8: ambiguous, possible interpretations 
  _root_.map_eq_zero (algebraMap K L) : (algebraMap K L) ?m.157807 = 0 ↔ ?m.157807 = 0
  
  Polynomial.map_eq_zero (algebraMap K L) : Polynomial.map (algebraMap K L) ?m.158624 = 0 ↔ ?m.158624 = 0
error: Lean exited with code 1
Some required builds logged failures:
- Mathlib.RingTheory.Localization.Integral
error: build failed
Running linter on specified module: Mathlib
uncaught exception: object file '././.lake/build/lib/Mathlib.olean' of module Mathlib does not exist
Error: The process '/usr/bin/env' failed with exit code 1
```

**Comment by YaelDillies** [comment]
`map_eq_zero` is now ambiguous with `Polynomial.map_eq_zero` when `Polynomial` is open. Here I would suggest marking `Polynomial.map_eq_zero` as `protected`

File: Mathlib/Algebra/Polynomial/Expand.lean [hunk 1]
```diff
@@ -176,6 +177,11 @@ theorem expand_aeval {A : Type*} [Semiring A] [Algebra R A] (p : ℕ) (P : R[X])
   refine Polynomial.induction_on P (fun a => by simp) (fun f g hf hg => ?_) fun n a _ => by simp
   rw [map_add, aeval_add, aeval_add, hf, hg]
 
+theorem expand_dvd {a b : R[X]} (p : ℕ) (h : a ∣ b) : expand R p a ∣ expand R p b := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Polynomial/Expand.lean:180]:
```suggestion
@[gcongr]
theorem expand_dvd {a b : R[X]} (p : ℕ) (h : a ∣ b) : expand R p a ∣ expand R p b := by
```

File: Mathlib/Algebra/Polynomial/Expand.lean [hunk 2]
```diff
@@ -296,4 +302,18 @@ theorem of_irreducible_expand_pow {p : ℕ} (hp : p ≠ 0) {f : R[X]} {n : ℕ}
 
 end IsDomain
 
+variable (k : Type u) [Field k] [DecidableEq k]
+
+theorem is_coprime_of_expand {a b : k[X]} {n : ℕ} (hn : n ≠ 0) :
```
Comment (YaelDillies) [inline Mathlib/Algebra/Polynomial/Expand.lean:307]:
```suggestion
theorem isCoprime_of_expand {a b : k[X]} {n : ℕ} (hn : n ≠ 0) :
```

File: Mathlib/Algebra/Polynomial/FieldDivision.lean
Comment (YaelDillies) [inline Mathlib/Algebra/Polynomial/FieldDivision.lean:1]: Could you please make this change in a separate PR?

File: Mathlib/Algebra/Polynomial/Expand.lean [hunk 3]
```diff
@@ -5,6 +5,7 @@ Authors: Kenny Lau
 -/
 import Mathlib.Algebra.CharP.Lemmas
 import Mathlib.Algebra.Polynomial.Derivative
+import Mathlib.Algebra.Polynomial.FieldDivision
```
Comment (YaelDillies) [inline Mathlib/Algebra/Polynomial/Expand.lean:8]: This increases the imports to quite a few files. Do you think you could reorder things around so as to remove this import increase?

Comment (seewoo5) [reply Mathlib/Algebra/Polynomial/Expand.lean:8]: Added! #20268

File: Mathlib/Algebra/Polynomial/FieldDivision.lean
Comment (seewoo5) [reply Mathlib/Algebra/Polynomial/FieldDivision.lean:1]: Added! #20268

File: Mathlib/Algebra/Polynomial/Expand.lean (hunk 3 above)
Comment (seewoo5) [reply Mathlib/Algebra/Polynomial/Expand.lean:8]: Maybe I didn't get your question - reorder which things?

Comment (YaelDillies) [reply Mathlib/Algebra/Polynomial/Expand.lean:8]: Move lemmas across files is what I mean

Comment (jcpaik) [reply Mathlib/Algebra/Polynomial/Expand.lean:8]: I have to admit I also don't follow what the 'import increase' means exactly.

Right now the only new import line is line 8 'import Mathlib.Algebra.Polynomial.FieldDivision'.
Are you suggesting that we can move the lemmas in `Mathlib.Algebra.Polynomial.FieldDivision` to other existing imports, and delete line 8?

Comment (YaelDillies) [reply Mathlib/Algebra/Polynomial/Expand.lean:8]: I don't actually know what the answer is here, but I expect it to be one of:
* Move the new lemmas to another existing file
* Create a new file for the new lemmas

**Review by alreadydone — CHANGES_REQUESTED** [review]

File: Mathlib/Algebra/Polynomial/Expand.lean [hunk 4]
```diff
@@ -296,4 +304,22 @@ theorem of_irreducible_expand_pow {p : ℕ} (hp : p ≠ 0) {f : R[X]} {n : ℕ}
 
 end IsDomain
 
+section Field
+
+variable (k : Type u) [Field k] [DecidableEq k]
+
+theorem isCoprime_of_expand {a b : k[X]} {n : ℕ} (hn : n ≠ 0) :
+    IsCoprime (expand k n a) (expand k n b) → IsCoprime a b := by
```
[the remark this answers is not in the document]
Comment (seewoo5) [reply Mathlib/Algebra/Polynomial/Expand.lean:312]: That's great! If you don't mind, maybe you can add your proof to this PR yourself to make sure that you take the contribution for it.

[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Algebra/Polynomial/Expand.lean:312]: Merging Junyan's branch into here will show their contribution 😉

[the remark this answers is not in the document]
Comment (jcpaik) [reply Mathlib/Algebra/Polynomial/Expand.lean]: I just merged Junyan's branch via GitHub. I do not know if his contribution is represented properly by doing this; feel free to revert if it's not the case.

[the remark this answers is not in the document]
Comment (alreadydone) [reply Mathlib/Algebra/Polynomial/Expand.lean]: Thanks! Looks good, my avatar is shown on the commits.

**Review by alreadydone — APPROVED** [review]
LGTM!
Maybe @YaelDillies could call maintainer merge?

File: Mathlib/Algebra/Polynomial/Expand.lean [hunk 5]
```diff
@@ -176,6 +176,12 @@ theorem expand_aeval {A : Type*} [Semiring A] [Algebra R A] (p : ℕ) (P : R[X])
   refine Polynomial.induction_on P (fun a => by simp) (fun f g hf hg => ?_) fun n a _ => by simp
   rw [map_add, aeval_add, aeval_add, hf, hg]
 
+@[gcongr]
+theorem expand_dvd {a b : R[X]} (p : ℕ) (h : a ∣ b) : expand R p a ∣ expand R p b := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Polynomial/Expand.lean:180]: Empirically, explicit arguments are only really useful for rewriting lemmas, which this one is not
```suggestion
theorem expand_dvd {a b : R[X]} {p : ℕ} (h : a ∣ b) : expand R p a ∣ expand R p b := by
```

File: Mathlib/Algebra/Polynomial/Expand.lean [hunk 6]
```diff
@@ -202,6 +208,34 @@ theorem contract_expand {f : R[X]} (hp : p ≠ 0) : contract p (expand R p f) =
 theorem contract_one {f : R[X]} : contract 1 f = f :=
   ext fun n ↦ by rw [coeff_contract one_ne_zero, mul_one]
 
+theorem contract_C {r : R} : contract p (C r) = C r := by simp [contract]
```
Comment (YaelDillies) [inline Mathlib/Algebra/Polynomial/Expand.lean:211]:
```suggestion
@[simp] theorem contract_C (r : R) : contract p (C r) = C r := by simp [contract]
```

File: Mathlib/Algebra/Polynomial/Expand.lean [hunk 7]
```diff
@@ -202,6 +208,34 @@ theorem contract_expand {f : R[X]} (hp : p ≠ 0) : contract p (expand R p f) =
...
+
+theorem contract_add {f g : R[X]} {p : ℕ} (hp : p ≠ 0) :
```
Comment (YaelDillies) [inline Mathlib/Algebra/Polynomial/Expand.lean:213]:
```suggestion
theorem contract_add {p : ℕ} (hp : p ≠ 0) (f g : R[X]) :
```

File: Mathlib/Algebra/Polynomial/Expand.lean [hunk 8]
```diff
@@ -202,6 +208,34 @@ theorem contract_expand {f : R[X]} (hp : p ≠ 0) : contract p (expand R p f) =
...
+    contract p (f + g) = contract p f + contract p g := by
+  ext; simp_rw [coeff_add, coeff_contract hp, coeff_add]
+
+theorem contract_mul_expand {f g : R[X]} {p : ℕ} (hp : p ≠ 0) :
```
Comment (YaelDillies) [inline Mathlib/Algebra/Polynomial/Expand.lean:217]:
```suggestion
theorem contract_mul_expand {p : ℕ} (hp : p ≠ 0) (f g : R[X]) :
```

File: Mathlib/Algebra/Polynomial/Expand.lean [hunk 9]
```diff
@@ -202,6 +208,34 @@ theorem contract_expand {f : R[X]} (hp : p ≠ 0) : contract p (expand R p f) =
 theorem contract_one {f : R[X]} : contract 1 f = f :=
   ext fun n ↦ by rw [coeff_contract one_ne_zero, mul_one]
 
+theorem contract_C {r : R} : contract p (C r) = C r := by simp [contract]
+
+theorem contract_add {f g : R[X]} {p : ℕ} (hp : p ≠ 0) :
+    contract p (f + g) = contract p f + contract p g := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Polynomial/Expand.lean:214]: Why is this false when `p = 0`? What does each side simplify to?

File: Mathlib/Algebra/Polynomial/Expand.lean [hunk 10]
```diff
@@ -202,6 +208,34 @@ theorem contract_expand {f : R[X]} (hp : p ≠ 0) : contract p (expand R p f) =
...
+  intro ⟨x, y⟩ eq nex
+  by_cases h : p ∣ y
+  · obtain ⟨x, rfl⟩ : p ∣ x := (Nat.dvd_add_iff_left h).mpr (eq ▸ dvd_mul_left p n)
+    obtain ⟨y, rfl⟩ := h
+    refine (nex ⟨⟨x, y⟩, (Nat.mul_right_cancel_iff hp.bot_lt).mp ?_, by simp_rw [mul_comm]⟩).elim
+    rw [← eq, mul_comm, mul_add]
+  · rw [coeff_expand hp.bot_lt, if_neg h, mul_zero]
+
+theorem isCoprime_of_expand {f g : R[X]} {p : ℕ} (hp : p ≠ 0) :
+    IsCoprime (expand R p f) (expand R p g) → IsCoprime f g :=
```
Comment (YaelDillies) [inline Mathlib/Algebra/Polynomial/Expand.lean:235]: Is this not an iff?

File: Mathlib/Algebra/Polynomial/Expand.lean (hunk 5 above)
Comment (alreadydone) [reply Mathlib/Algebra/Polynomial/Expand.lean:180]: I would expect the explicit argument to be useful for `have := expand_dvd p h` or `obtain`. On the other hand, for rewriting lemmas I'd usually keep arguments appearing on both sides implicit, since they are not needed most of the time when using `rw` and making them implicit saves some underscores (or even parentheses) when you occasionally use the lemmas in term mode. Can you explain your rationale (or post a link to your explanation if you've done it before)?

File: Mathlib/Algebra/Polynomial/Expand.lean (hunk 9 above)
Comment (alreadydone) [reply Mathlib/Algebra/Polynomial/Expand.lean:214]: `extract 0` sends `f0 + f1 X + f2 X^2 + ... + fn X ^n` to `f0 (1 + X + X ^ 2 + ... + X ^ n)`.

File: Mathlib/Algebra/Polynomial/Expand.lean (hunk 10 above)
Comment (alreadydone) [reply Mathlib/Algebra/Polynomial/Expand.lean:235]: Good catch!

File: Mathlib/Algebra/Polynomial/Expand.lean (hunk 5 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Polynomial/Expand.lean:180]: It's possibly an artifact of my style but here are some arguments:
1. Non-rewriting lemmas are almost always used in a context where there's enough information for Lean to infer them by unification.
2. In the rare cases where there isn't enough info, it usually means you should add a type ascription for your reader to understand, which is better than filling in an argument of unclear purpose. Eg I would consider `obtain ⟨q, hq⟩ : expand R p a ∣ expand R p b := expand_dvd h` better style than `obtain ⟨q, hq⟩ := expand_dvd p h`.
3. Non-rewriting lemmas are very likely to be used in proof terms, where extra underscores and brackets are painful.
4. Rewriting lemmas are almost always used with `rw`, where extra explicit arguments don't hurt when unnecessary and come in handy when needed to disambiguate between several occurrences.

Comment (alreadydone) [reply Mathlib/Algebra/Polynomial/Expand.lean:180]: Thanks for the detailed explanations!
I agree that variables appearing in the conclusion of non-rewriting lemmas can be made implicit. Explicit arguments in rewriting lemmas for disambiguation is also a good point. Regarding point 5, what do you think about the many uses of an iff lemma concatenated with `.trans` in [these search results](https://github.com/search?q=repo%3Aleanprover-community%2Fmathlib4%20iff.trans&type=code)? I don't think these should be made calc blocks.

For this particular lemma, I realize we don't need it as it's a special case of `map_dvd`.

File: Mathlib/Algebra/Polynomial/Expand.lean [hunk 11]
```diff
@@ -176,6 +176,12 @@ theorem expand_aeval {A : Type*} [Semiring A] [Algebra R A] (p : ℕ) (P : R[X])
   refine Polynomial.induction_on P (fun a => by simp) (fun f g hf hg => ?_) fun n a _ => by simp
   rw [map_add, aeval_add, aeval_add, hf, hg]
 
+@[gcongr]
+theorem expand_dvd {a b : R[X]} (p : ℕ) (h : a ∣ b) : expand R p a ∣ expand R p b := by
+  rcases h with ⟨t, eqn⟩
+  use expand R p t
+  rw [eqn, map_mul]
+
```
Comment (alreadydone) [inline Mathlib/Algebra/Polynomial/Expand.lean:184]:
```suggestion
```

File: Mathlib/Algebra/Polynomial/Expand.lean (hunk 5 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Polynomial/Expand.lean:180]: Ah yes sorry, I forgot to mention but I do consider iff lemmas separately because of this precise issue. Arguments to iff lemmas should almost always be implicit. The only exception that comes to mind is when a variable appears on the LHS of the iff, but not on the RHS. This happens pretty rarely

File: Mathlib/Algebra/Polynomial/Expand.lean (hunk 11 above)
Comment (jcpaik) [reply Mathlib/Algebra/Polynomial/Expand.lean:184]: Should we make the final decision of commiting this change ourselves? I'm fine with this (mentioning @seewoo5 just in case).

Comment (jcpaik) [reply Mathlib/Algebra/Polynomial/Expand.lean:184]: ...and @YaelDillies too. The suggestion is to remove `expand_dvd` as it is a special case of `_root_.map_dvd` . Does everyone agree?

File: Mathlib/Algebra/Polynomial/Expand.lean (hunk 5 above)
Comment (alreadydone) [reply Mathlib/Algebra/Polynomial/Expand.lean:180]: But I'd expect there are more use cases of eq lemmas in term mode, for example `.subst` (▸), `.trans`, `.le`, `.subset`. (Many eq lemmas' names don't end in `eq` but you can still see a use of `Ideal.Quotient.eq.trans` in these [search results](https://github.com/search?q=repo%3Aleanprover-community%2Fmathlib4+eq.trans&type=code&rgh-link-date=2024-12-31T15%3A14%3A09Z).)

File: Mathlib/Algebra/Polynomial/Expand.lean [hunk 12]
```diff
@@ -202,6 +202,34 @@ theorem contract_expand {f : R[X]} (hp : p ≠ 0) : contract p (expand R p f) =
...
+  simp_rw [mem_image, mem_antidiagonal]
+  intro ⟨x, y⟩ eq nex
+  by_cases h : p ∣ y
+  · obtain ⟨x, rfl⟩ : p ∣ x := (Nat.dvd_add_iff_left h).mpr (eq ▸ dvd_mul_left p n)
+    obtain ⟨y, rfl⟩ := h
+    refine (nex ⟨⟨x, y⟩, (Nat.mul_right_cancel_iff hp.bot_lt).mp ?_, by simp_rw [mul_comm]⟩).elim
+    rw [← eq, mul_comm, mul_add]
+  · rw [coeff_expand hp.bot_lt, if_neg h, mul_zero]
+
+theorem isCoprime_expand_iff {f g : R[X]} {p : ℕ} (hp : p ≠ 0) :
```
Comment (YaelDillies) [inline Mathlib/Algebra/Polynomial/Expand.lean:228]:
```suggestion
@[simp] theorem isCoprime_expand {f g : R[X]} {p : ℕ} (hp : p ≠ 0) :
```
maybe?

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
